US09315521B2
Methyl 3-bromopyridine-4-carboxylate (5 g, 23.1 mmol) was dissolved in anhydrous dioxane (150 mL). A solution of diethyl zinc (18.9 mL, 20.8 mmol, 1.1 M in toluene) was added dropwise and then was added catalyst ((1,1′-bis(diphenylphosphino)ferrocene)dichloropalladium (254 mg, 347 μmol). The mixture was heated at 70° C. for 3.5 hours and then water followed with 1 N HCl was added. The mixture was extracted 3 times with ethyl acetate. The combined organic phase was washed with brine and dried over sodium sulfate. After evaporation, the residue was dissolved in DCM and purified on silica gel using 0-20% hexane/ethyl acetate to afford methyl 3-ethylpyridine-4-carboxylate (730 mg, 19% yield).

reactant | Methyl 3-bromopyridine-4-carboxylate | 23.1 mmol, 5 g | BrC=1C=NC=CC1C(=O)OC | C7H6BrNO2
reactant | diethyl zinc | 20.8 mmol, 1.1 M, 18.9 mL | C(C)[Zn]CC
reactant | water | O | H2O
reactant | HCl | 1 N | Cl | ClH
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | methyl 3-ethylpyridine-4-carboxylate | 730 mg, 19% yield | C(C)C=1C=NC=CC1C(=O)OC | C9H11NO2
